US04885024
To a solution of 2-[2-(7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl)hydrazino]cyclohexanone oxime (3.0 g) in tetrahydrofuran (100 ml), 15% aqueous pyridine (60 g) was added, and a solution of copper sulfate (6 g) in water (10 ml) was added thereto, followed by heating at 80° C. for 2 hours. After completion of the reaction, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with 10% aqueous copper sulfate solution, dried and concentrated. The residue was purified by silica gel column chromatography using ethyl acetate as an eluent to give 2-(7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl)-4,5,6,7-tetrahydro-1,2,3-benzotriazole-1-oxide. m.p., 219°-221° C.

reactant | 2-[2-(7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl)hydrazino]cyclohexanone oxime | 3.0 g | FC1=CC2=C(NC(CO2)=O)C=C1NNC1C(CCCC1)=NO | C14H17FN4O3
reactant | pyridine | 60 g | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
catalyst | copper sulfate | 6 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-(7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl)-4,5,6,7-tetrahydro-1,2,3-benzotriazole-1-oxide | FC1=CC2=C(NC(CO2)=O)C=C1N1N=C2C(=[N+]1[O-])CCCC2 | C14H13FN4O3
